US04515948
A solution (cooled to 10° C.) of 18.1 g. of 4-amino-3,5-dimethoxy-benzaldehyde in 210 ml. of 98% formic acid was treated dropwise with 70 ml. of acetic anhydride with stirring and the temperature was maintained below 15° C. The solution was then stirred for 2 hours at room temperature, treated with 80 ml. of water and evaporated to dryness under vacuum. The residue was washed with water, recrystallized from alcohol and there was obtained 2',6'-dimethoxy-4'-formyl-formanilide having a melting point of 159°-160° C.

reactant | 4-amino-3,5-dimethoxy-benzaldehyde | NC1=C(C=C(C=O)C=C1OC)OC | C9H11NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | C(=O)O | CH2O2
product | 2',6'-dimethoxy-4'-formyl-formanilide | COC1=C(NC=O)C(=CC(=C1)C=O)OC | C10H11NO4
